US07884210B2
{2-[3-(3-methyl-butyl)-3-(trans-4-methyl-cyclohexyl)-ureido]-thiazole-5-sulfonylamino}-acetic acid ethyl ester was dissolved in MeOH and treated with 15 equivalents of 1N NaOH for 2 days at room temperature. MeOH was removed by evaporation. Addition of 1N HCl to pH<1 caused precipitation. The precipitate was isolated by filtration, washed with water and dried to give {2-[3-(3-methyl-butyl)-3-(4-methyl-cyclohexyl)-ureido]-thiazole-5-sulfonylamino}-acetic acid as crystals.

reactant | {2-[3-(3-methyl-butyl)-3-(trans-4-methyl-cyclohexyl)-ureido]-thiazole-5-sulfonylamino}-acetic acid ethyl ester | C(C)OC(CNS(=O)(=O)C1=CN=C(S1)NC(=O)N([C@@H]1CC[C@H](CC1)C)CCC(C)C)=O | C20H34N4O5S2
reactant | NaOH | 1N, 15 equivalents | [OH-].[Na+]
solvent | MeOH | CO | CH4O
product | {2-[3-(3-methyl-butyl)-3-(4-methyl-cyclohexyl)-ureido]-thiazole-5-sulfonylamino}-acetic acid | CC(CCN(C(NC=1SC(=CN1)S(=O)(=O)NCC(=O)O)=O)C1CCC(CC1)C)C | C18H30N4O5S2
